US04435566
20 g of ethyl 3-oxotetrahydrothiopyran-2-carboxylate was added to 120 ml of a methanolic solution containing 9 g of potassium hydroxide at room temperature while stirring. Then, a small amount of S-methylisothiourea hydrobromide was added to the mixture and the stirring was continued for 2 hours. The reaction solution was then poured into ice-water, and the mixture was made acidic with acetic acid. The precipitated crystals were separated by filtration and recrystallized from acetic acid to obtain 4-hydroxy-2-methylthio-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine as colorless needles having a melting point of 248° C.

reactant | ethyl 3-oxotetrahydrothiopyran-2-carboxylate | 20 g | O=C1C(SCCC1)C(=O)OCC | C8H12O3S
reactant | potassium hydroxide | 9 g | [OH-].[K+]
reactant | S-methylisothiourea hydrobromide | Br.CSC(N)=N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-hydroxy-2-methylthio-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | OC=1C2=C(N=C(N1)SC)CCCS2 | C8H10N2OS2
